US08022063B2
4-Bromo-2-[3-(4-chlorobenzyl)-2,4-dioxothiazolidin-5-ylmethyl]phenoxyacetic acid.
Prepared from 4-chlorobenzylbromide and 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester according to GP13, GP14 and GP16 to give 50.4 mg (21% overall yield) of the title compound: LC/MS (an10p8): Rt 2.6 min, m/z 482 [M−H]−. 1H NMR (DMSO-d6): δ 3.05 (dd, J=13.8, 9.7 Hz, 1H), 3.57 (dd, J=13.8, 4.9 Hz, 1H), 5.11 (dd, J=9.7, 4.9 Hz, 1H), 4.67 (s, 2H), 4.75 (s, 2H), 6.91 (d, J=8.7, 1H), 7.25-7.28 (m, 2H), 7.37-7.42 (m, 4H), 13.15 (br. s, 1H).

reactant | 4-chlorobenzylbromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | 4-bromo-2-[2,4-dioxothiazolidin-(5Z)-ylidenemethyl]phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)\C=C/1\C(NC(S1)=O)=O)=O | C14H12BrNO5S
product | 4-Bromo-2-[3-(4-chlorobenzyl)-2,4-dioxothiazolidin-5-ylmethyl]phenoxyacetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)CC1C(N(C(S1)=O)CC1=CC=C(C=C1)Cl)=O | C19H15BrClNO5S
